US07902226B2
3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine
1-benzyloxycarbonyl-3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine (1.31 g, 3.48 mmol) was dissolved in ethanol (13 ml), and after adding a 10% palladium carbon catalyst (water content: 50%; 0.65 g) thereto, it was stirred at room temperature for 5 hours under a hydrogen atmosphere at atmospheric pressure. After performing filtration through cellite (ethanol washing), the filtrate was concentrated under a reduced pressure. As a result, 0.92 g (quantitative) of the title compound was obtained in the form of a colorless syrup.

reactant | 1-benzyloxycarbonyl-3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine | 3.48 mmol, 1.31 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](CC1)C1(CC1)N(C)C(=O)OC(C)(C)C | C21H30N2O4
solvent | ethanol | 13 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.65 g | [C].[Pd]
product | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine | C(C)(C)(C)OC(=O)N(C)C1(CC1)[C@H]1CNCC1 | C13H24N2O2
